US05545669
c) 2-(2-Amino-4-bromophenoxy)benzoic acid
A mixture of 2-(2-nitro-4-bromophenoxy)benzoic acid (0.6 g, 0.0018 mol) iron powder (0.69 g 0.012 mol), ethanol (46 mL), water (41 mL), and acetic acid (4.6 mL) was heated to 75° C. for 30 minutes. The mixture was filtered and the solvents evaporated to give the crude product which was purified by flash chromatography (silica gel, ethyl acetate/hexane/formic acid) to give the title compound as a white solid. 1H NMR (400 MHz, CDCl3) δ8.09 (dd, 1H), 7.45-7.50 (m, 1H), 7.16-7.26 (m, 1H), 6.99 (d, 1H), 6.84-6.89 (m, 2H), 6.78 (d, 1H), 5.35 (br s, 3H).

reactant | 2-(2-nitro-4-bromophenoxy)benzoic acid | 0.0018 mol, 0.6 g | [N+](=O)([O-])C1=C(OC2=C(C(=O)O)C=CC=C2)C=CC(=C1)Br | C13H8BrNO5
reactant | ethanol | 46 mL | C(C)O | C2H6O
reactant | water | 41 mL | O | H2O
solvent | acetic acid | 4.6 mL | C(C)(=O)O | C2H4O2
product | 2-(2-Amino-4-bromophenoxy)benzoic acid | NC1=C(OC2=C(C(=O)O)C=CC=C2)C=CC(=C1)Br | C13H10BrNO3
